US07534797B2
1-Cyclobutyl-3-(2-phenylquinolin-7-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine
Nitrogen was bubbled into a mixture of 1-cyclobutyl-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (60.0 mg, 0.190 mmol), 2-phenyl-7-(4,4,5,5-tetramethyl-[2,3,2]dioxaborolan-2-yl)-quinoline (64.4 mg, 0.194 mmol), Na2CO3 (50.5 mg, 0.476 mmol), and Pd(PPh3)4 (13.7 mg, 0.0119 mmol) in DMF (4 mL)/water (1 mL) for 5 min, then the mixture was heated under nitrogen to 80° C. (bath temp.) for 17 h. The solvents were evaporated, water was added, the mixture was extracted with CH2Cl2 (3×20 mL), and the combined extracts were washed with brine and dried over MgSO4. MgSO4 was filtered off, and the filtrate was concentrated and chromatographed on an SCX column (1 g/6 mL barrel). The amine-containing fraction was adsorbed onto Hydromatrix and chromatographed on silica gel [Jones Flashmaster, 5 g/25 mL cartridge, eluting with CH2Cl2 (1-11)→1% MeOH in CH2Cl2 (12-28)→2% MeOH in CH2Cl2 (29-46)], yielding the title compound as off-white solid. 1H NMR (CDCl3, 400 MHz): δ=1.87-2.04 (m, 2H), 2.48-2.58 (mc, 2H), 2.86-2.98 (mc, 2H), 5.50 (quint, J=8.0 Hz, 1H), 5.57 (brs, 2H), 7.47-7.52 (m, 1H), 7.53-7.58 (m, 2H), 7.96 (dd, J=1.6, 8.3 Hz, 1H), 7.97 (d, J=8.6 Hz, 1H), 8.02 (d, J=8.0 Hz, 1H), 8.19-8.23 (m, 2H), 8.31 (d, J=8.6 Hz, 1H), 8.42 (s, 1H), 8.49-8.52 (m, 1H). 13C NMR (CDCl3, 100.6 MHz, DEPT135): δ=14.99 (−), 29.91 (2C, −), 50.61 (+), 98.68 (Cquart), 119.59 (+), 126.53 (+), 126.97 (Cquart), 127.56 (2C, +), 128.66 (+), 128.79 (2C, +), 129.00 (+), 129.53 (+), 134.83 (Cquart), 136.53 (+), 139.14 (Cquart), 143.40 (Cquart), 148.22 (Cquart), 154.00 (Cquart), 155.53 (+), 157.92 (Cquart), 158.18 (Cquart). MS (ES+): m/z 393.1 (53) [MH+]. HPLC: tR=3.1 min (OpenLynx, nonpolar—5 min), 3.6 min (OpenLynx, polar—5 min).

reactant | 1-cyclobutyl-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.190 mmol, 60.0 mg | C1(CCC1)N1N=C(C=2C1=NC=NC2N)I | C9H10IN5
reactant | 2-phenyl-7-(4,4,5,5-tetramethyl-[2,3,2]dioxaborolan-2-yl)-quinoline | 0.194 mmol, 64.4 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)B1CC(C(O1)(C)C)(C)C | C22H24BNO
reactant | Na2CO3 | 0.476 mmol, 50.5 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 1 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.0119 mmol, 13.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Cyclobutyl-3-(2-phenylquinolin-7-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | C1(CCC1)N1N=C(C=2C1=NC=NC2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C24H20N6
